US07674795B2
The procedure used in Example 68 is followed. In a 250 ml round-bottomed flask under an argon atmosphere, reflux, for 6 hours, a suspension of 4 g of [2-amino-4-(4-methylpiperazin-1-yl)phenyl]amide of 9-oxo-9H-fluorene-4-carboxylic acid, obtained in the previous stage, in 64 ml of acetic acid. After purification by formation of a paste with diisopropyl ether, in this way we obtained 2.5 g of 4-[6-(4-methylpiperazin-1-yl)-1H -benzimidazol-2-yl]-9H-fluoren-9-one, in the form of an orange powder, which is used as it is in the following stage, with the following characteristics:

reactant | [2-amino-4-(4-methylpiperazin-1-yl)phenyl]amide | 4 g | NC1=C(C=CC(=C1)N1CCN(CC1)C)[NH-]
reactant | 9-oxo-9H-fluorene-4-carboxylic acid | O=C1C2=CC=CC=C2C=2C(=CC=CC12)C(=O)O | C14H8O3
solvent | acetic acid | 64 ml | C(C)(=O)O | C2H4O2
product | 4-[6-(4-methylpiperazin-1-yl)-1H -benzimidazol-2-yl]-9H-fluoren-9-one | 2.5 g | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=O)C1 | C25H22N4O
